US05478842
Using an analogous procedure to that described in Example 5, 6-iodo-1-methyl-1,2-dihydroquinolin-2-one (European Patent Application No. 0420511, Example 1 thereof) was reacted with (2S,4R)-4-hydroxy-4(2-mercaptothien-4-yl)-2-methyltetrahydropyran to give (2S,4R)-4-hydroxy-2-methyl-4-[2-(1-methyl-2-oxo-1,2-dihydroquinolin-6-ylthio)thien-4-yl]tetrahydropyran in 65% yield as a foam;

reactant | 6-iodo-1-methyl-1,2-dihydroquinolin-2-one | IC=1C=C2C=CC(N(C2=CC1)C)=O | C10H8INO
reactant | (2S,4R)-4-hydroxy-4(2-mercaptothien-4-yl)-2-methyltetrahydropyran | O[C@]1(C[C@@H](OCC1)C)C=1C=C(SC1)S | C10H14O2S2
product | (2S,4R)-4-hydroxy-2-methyl-4-[2-(1-methyl-2-oxo-1,2-dihydroquinolin-6-ylthio)thien-4-yl]tetrahydropyran | 65% yield | O[C@]1(C[C@@H](OCC1)C)C=1C=C(SC1)SC=1C=C2C=CC(N(C2=CC1)C)=O | C20H21NO3S2
